US07985876B2
4-[4-(Methoxycarbonyl)phenyl]-2-{2-[4-(methoxycarbonyl)phenyl]ethyl}butanoic acid
At room temperature, a solution of 20.48 ml (146.9 mmol) of triethylamine and 4.2 ml (111.29 mmol) of formic acid in 50 ml of dioxane is added to a solution of 22.64 g (44.52 mmol) of diallyl bis{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate, 0.82 g (3.12 mmol) of triphenylphosphine and 200 mg of palladium acetate in 250 ml of dioxane. The reaction mixture is then stirred at 100° C. overnight. After the reaction has gone to completion, the reaction solution is cooled and the solvent is removed under reduced pressure. The residue obtained is taken up in water and ethyl acetate. The aqueous phase is extracted three times with ethyl acetate, and the combined organic phases are washed with saturated sodium chloride solution and dried over magnesium sulfate. After filtration, the solvent is removed under reduced pressure and the residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). This gives 10.4 g (27.1 mmol, 61% of theory) of a colorless solid.

reactant | triethylamine | 146.9 mmol, 20.48 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 111.29 mmol, 4.2 ml | C(=O)O | CH2O2
reactant | diallyl bis{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate | 44.52 mmol, 22.64 g | COC(=O)C1=CC=C(C=C1)CCC(C(=O)OCC=C)(C(=O)OCC=C)CCC1=CC=C(C=C1)C(=O)OC | C29H32O8
reactant | triphenylphosphine | 3.12 mmol, 0.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 200 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[4-(Methoxycarbonyl)phenyl]-2-{2-[4-(methoxycarbonyl)phenyl]ethyl}butanoic acid | COC(=O)C1=CC=C(C=C1)CCC(C(=O)O)CCC1=CC=C(C=C1)C(=O)OC | C22H24O6
